US04127646
A mixture of 1.5 g. (0.005 mol) of 3,5-bis-methylsulfonamidonitrobenzene in 100 ml. of ethanol and 300 mg. of 10% palladium-on-carbon was hydrogenated in a Parr apparatus until hydrogen uptake had ceased. The catalyst was filtered, the ethanol was removed under reduced pressure and the residue was dissolved in 30 ml. of methanol. This solution of 3,5-bis-methylsulfonamidoaniline (1.36 g.) and 1.06 g. (0.005 mol) of 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one was refluxed for two hours under nitrogen. The reaction mixture was filtered to give 5-acetyl-4-hydroxy-3-[1-(3,5-bis-methylsulfonamidophenylamino)ethylidene]-2H-pyran-2,6(3H)-dione, m.p. 260° C.

reactant | 3,5-bis-methylsulfonamidonitrobenzene | 0.005 mol | CS(=O)(=O)NC=1C=C(C=C(C1)NS(=O)(=O)C)[N+](=O)[O-] | C8H11N3O6S2
reactant | hydrogen | [H][H] | H2
reactant | 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one | 0.005 mol | C(C)(=O)C=1C(OC(=C(C1O)C(C)=O)O)=O | C9H8O6
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 5-acetyl-4-hydroxy-3-[1-(3,5-bis-methylsulfonamidophenylamino)ethylidene]-2H-pyran-2,6(3H)-dione | C(C)(=O)C1=C(C(C(OC1=O)=O)=C(C)NC1=CC(=CC(=C1)NS(=O)(=O)C)NS(=O)(=O)C)O | C17H19N3O9S2
